US06498241B1
2-Bromo-9-(2-deoxy-β-D-erythro-pentofuranosyl)-6-{[(dimethylamino)methylidene]amino}-9H-purine
The compound was produced analogously to example 8 except that the following amounts were used: 2-bromo-2′-deoxyadenosine (330 mg, 1.0 mmol), DMF (3 ml), dimethylformamide-diethylacetal (0.85 ml, 5 mmol). Colourless amorphous solid (306 mg, 80%). TLC (CH2Cl2/MeOH, 9:1): Rf 0.33. UV (MeOH): 318 (28600), 238 (13000). 1H-NMR ((D6(DMSO): 2.32, 2.67 (2m, H—C(2′)); 3.14, 3.23 (2s, CH3—N); 3.56 (m, H—C(5′)); 3.86 (m, H—C(4′)); 4.39 (m, H—C(3′)); 4.95 (t, J=5.5 Hz, HO—C(5′)); 5.33 (d, J=4.3 Hz, HO—C(3′)); 6.31 (“t”, J=6.3 Hz, H—C(1′)); 8.44 (s, H—C(8)); 8.85 (s, H—C(N═)). Anal. calc. for C13H17BrN6O3 (385.22): C, 40.53; H, 4.45; N, 21.82; found: C, 40.66; H, 4.50; N, 21.79.

reactant | 2-bromo-2′-deoxyadenosine | 1.0 mmol, 330 mg | BrC=1N=C(C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12BrN5O3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | dimethylformamide-diethylacetal | 5 mmol, 0.85 ml | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | MeOH | CO | CH4O
product | 2-Bromo-9-(2-deoxy-β-D-erythro-pentofuranosyl)-6-{[(dimethylamino)methylidene]amino}-9H-purine | BrC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](O)[C@H](O1)CO)N=CN(C)C | C13H17BrN6O3
